US05668157
Step 1: 2-(Dimethylamino)-3-nitropyridine
A stirred mixture of 2-chloro-3-nitropyridine (1.00 g, 0.00631 mol) in absolute EtOH (17 ml), under nitrogen, was treated, dropwise during 10 minutes, with 3.86 g (0.0214 mol) of 25% aqueous dimethylamine and kept at ambient temperature (25° C.) for 30 minutes. The mixture was mixed with water and extracted with EtOAc. The extract was washed with water, dried (MgSO4) and concentrated to give 1.05 g of the titled product, a yellow oil.

reactant | 2-chloro-3-nitropyridine | 0.00631 mol, 1.00 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | dimethylamine | 0.0214 mol, 3.86 g | CNC | C2H7N
reactant | water | O | H2O
solvent | EtOH | 17 ml | CCO | C2H6O
product | 2-(Dimethylamino)-3-nitropyridine | 1.05 g | CN(C1=NC=CC=C1[N+](=O)[O-])C | C7H9N3O2
